US04410539
5-Hydroxybenzo[b]thiophene-2-carboxylic acid methyl ester (1.47 g.) was dissolved in a solution of sodium (0.163 g.) in methanol (15 ml.) and 2-(benzenesulphonyloxy)ethyl chloride (1.57 g.) was added. The resulting solution was heated under reflux for 8 hours and then allowed to cool and stood overnight. The solution was then evaporated and the residue was partitioned between water and ether. The aqueous layer was separated and washed several times with ether. The combined organic layer and ethereal extracts were washed with water, dried (Na2SO4) and evaporated. The residue was chromatographed on silica gel. Elution with chloroform gave a solid which was crystallized from ethyl acetate/petrol (b.p. 60°-80°) to give 5-(2-chloroethoxy)benzo[b]-thiophene-2-carboxylic acid methyl ester, (0.74 g.), m.p. 116°-117° C.

reactant | 5-Hydroxybenzo[b]thiophene-2-carboxylic acid methyl ester | 1.47 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)O | C10H8O3S
reactant | 2-(benzenesulphonyloxy)ethyl chloride | 1.57 g | C1(=CC=CC=C1)S(=O)(=O)OCCCl | C8H9ClO3S
solvent | sodium | 0.163 g | [Na] | Na
solvent | methanol | 15 ml | CO | CH4O
product | 5-(2-chloroethoxy)benzo[b]-thiophene-2-carboxylic acid methyl ester | 0.74 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)OCCCl | C12H11ClO3S
